US07741352B2
2-Hydroxy-4-octyloxy-benzaldehyde oxime (Compound 12-3)
To a solution of 2-hydroxy-4-octyloxy-benzaldehyde (3.64 g; 14.5 mmol) in abs. EtOH (30 mL) was added hydroxylamine hydrochloride [50% H2O (w/w)] and the slurry was stirred for 2 hours. The reaction mixture was evaporated to dryness and the resulting solid triturated in H2O (20 mL) and EtOAc/diethylether (20 mL+10 mL) to give 1.8 g (47%) as a white solid. MS (direct; EI): 265 (M).

reactant | 2-hydroxy-4-octyloxy-benzaldehyde | 14.5 mmol, 3.64 g | OC1=C(C=O)C=CC(=C1)OCCCCCCCC | C15H22O3
reactant | hydroxylamine hydrochloride | Cl.NO
solvent | EtOH | 30 mL | CCO | C2H6O
product | 2-Hydroxy-4-octyloxy-benzaldehyde oxime | OC1=C(C=NO)C=CC(=C1)OCCCCCCCC | C15H23NO3
